US07625909B2
Step 1. Synthesis of 1-benzhydryl-azetidin-3-ol
A solution of 1-(diphenylmethyl)-3-(methanesulphonyloxy) azetidine (1.0 g) in. THF (17 mL) was treated with 3.0 M methylmagnesium bromide (1.2 mL) in diethyl ether at 0° C. The reaction was stirred for 1.5 hours at 0° C. and then quenched with saturated aqueous sodium bicarbonate, filtered through Celite, and concentrated. The residue was then take up in methylene chloride and washed with saturated aqueous sodium bicarbonate, followed by brine. The organic layer was dried over magnesium sulfate, filtered, concentrated and purified by column chromatography (0 to 60% EtOAc/hexanes) to provide 640 mg of the title compounds as a clear, yellow oil. ESMS: 240.19 (M+1), 1.22 minutes, Method D.

reactant | 1-(diphenylmethyl)-3-(methanesulphonyloxy) azetidine | 1.0 g | C1(=CC=CC=C1)C(N1CC(C1)OS(=O)(=O)C)C1=CC=CC=C1 | C17H19NO3S
reactant | THF | 17 mL | C1CCOC1 | C4H8O
reactant | methylmagnesium bromide | 3.0 M, 1.2 mL | C[Mg]Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-benzhydryl-azetidin-3-ol | 640 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)O | C16H17NO
